US06133303
2-Benzylidene-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 8, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.505 g, 1.97 mmol) was reacted with benzaldehyde (0.312 g, 2.94 mmol) in 3.0 mL of 4% KOH in EtOH overnight at room temperature to afford 0.596 g (88%) of the title compound as a cream-colored solid: CI-MS m/e 344 (M+), 345 (M+ +1);

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 1.97 mmol, 0.505 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | benzaldehyde | 2.94 mmol, 0.312 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | KOH | 3.0 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 2-Benzylidene-6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.596 g, 88% | C(C1=CC=CC=C1)=C1C(C2=CC=C(C=C2CC1)OCCN1C=NC=C1)=O | C22H20N2O2
